US07645776B2
CPT activity was measured using a spectrophotometric assay using 5,5′-dithio-bis-(2-nitrobenzoic acid) (DTNB) also called Ellman's reagent. The HS-CoA released on the formation of acylcarnitine from carnitine (500 μM) and palmitoyl-CoA (80 μM) reduced DTNB (300 μM) forming 5-mercapto-(2-nitrobenzoic acid) which absorbed at 410 nm with a molar coefficient extinction of 13600 M−1.cm−1. The assay buffer contained 120 mM KCl, 25 mM Tris, pH 7.4, 1 mM EDTA. This assay was used for the identification of selective inhibitors of the liver CPT1 isoform versus the muscle CPT1 and CPT2 isoforms.

reactant | 5,5′-dithio-bis-(2-nitrobenzoic acid) | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)SSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H8N2O8S2
reactant | Ellman's reagent | C1=CC(=C(C=C1SSC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C(=O)O)[N+](=O)[O-] | C14H8N2O8S2
reactant | HS-CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
reactant | carnitine | 500 μM | OC(C[N+](C)(C)C)CC([O-])=O | C7H15NO3
reactant | palmitoyl-CoA | 80 μM | C(CCCCCCCCCCCCCCC)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C37H66N7O17P3S
reactant | DTNB | 300 μM | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)SSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H8N2O8S2
product | 5-mercapto-(2-nitrobenzoic acid) | SC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H5NO4S
